US04684722
(K) (±)-(Z)-2-[[[1-(2-Amino-4-thiazolyl)-2-[[4,4-dimethyl-2-oxo-1-(sulfooxy)-3-azetidinyl]amino]-2-oxoethylidene]amino]oxy]-2-propenoic acid
To the flask containing (±)-(Z)-2-[[[1-(2-amino-4-thiazolyl)-2-[[4,4-dimethyl-2-oxo-1-(sulfooxy)-3-azetidinyl]amino]-2-oxoethylidene]amino]oxy]-2-propenoic acid, diphenylmethyl ester was added methylene chloride (10 ml) and anisole (10 ml). After cooling to -5° C., trifluoroacetic acid (8 ml) was added and the reaction mixture was stirred at -5 to 0° C. under argon for 45 minutes. Toluene was added, and the reaction mixture was evaporated to a residue. Water and hexane were added to the residue and the layers were separated. The aqueous layer was adjusted to pH 2.5 with 10% potassium bicarbonate. An HP20 column was run eluting first with water and then an acetone/water gradient. The appropriate fractions were combined and lyophilized to give the title compound as a white solid. 1H-NMR (1:1 D2O/CD3CN) δ1.57 (s, 3H); 1.75 (s, 3H); 5.09 (s, 1H); 5.75 (d, J =2.3 Hz, 1H); 5.86 (d, J2.3 Hz, lH); 7.42 (s, 1H).

reactant | (±)-(Z)-2-[[[1-(2-amino-4-thiazolyl)-2-[[4,4-dimethyl-2-oxo-1-(sulfooxy)-3-azetidinyl]amino]-2-oxoethylidene]amino]oxy]-2-propenoic acid, diphenylmethyl ester | NC=1SC=C(N1)/C(/C(=O)NC1C(N(C1(C)C)OS(=O)(=O)O)=O)=N/OC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C | C26H25N5O9S2
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | anisole | 10 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | (±)-(Z)-2-[[[1-(2-Amino-4-thiazolyl)-2-[[4,4-dimethyl-2-oxo-1-(sulfooxy)-3-azetidinyl]amino]-2-oxoethylidene]amino]oxy]-2-propenoic acid | NC=1SC=C(N1)/C(/C(=O)NC1C(N(C1(C)C)OS(=O)(=O)O)=O)=N/OC(C(=O)O)=C | C13H15N5O9S2
